US08236949B2
Synthesis of 1,4-diphenyl-5,6,7,8,9,10-hexahydro-cycloocta[d]pyridazine (35)
A dry round-bottomed flask was charged with 3,6-diphenyl-1,2,4,5-tetrazine (0.030 g, 0.13 mmol) and the flask was evacuated and filled with nitrogen. Anhydrous THF (1.3 mL) and trans-cyclooctene (0.014 g, 0.21 mmol) were added to the reaction mixture. After approximately 20 minutes the purple solution turned yellow, indicating that the reaction had gone to completion. The reaction mixture was concentrated under reduced pressure. The crude yellow residue was chromatographed on silica gel using a gradient (0-50%) of EtOAc in hexanes as the eluent to give 38 mg (95%) of the title compound as a pale yellow solid, mp 163-165° C. The adduction product had aromatized upon workup and chromatography to provide the titled compound.

reactant | 3,6-diphenyl-1,2,4,5-tetrazine | 0.13 mmol, 0.030 g | C1(=CC=CC=C1)C=1N=NC(=NN1)C1=CC=CC=C1 | C14H10N4
reactant | trans-cyclooctene | 0.21 mmol, 0.014 g | C/1=C\CCCCCC1 | C8H14
solvent | THF | 1.3 mL | C1CCOC1 | C4H8O
product | 1,4-diphenyl-5,6,7,8,9,10-hexahydro-cycloocta[d]pyridazine | 38 mg, 95% | C1(=CC=CC=C1)C1=NN=C(C2=C1CCCCCC2)C2=CC=CC=C2 | C22H22N2
